US05763437
A mixture of 3-hydroxyaniline (2.0 g) and pyridine (3.3 ml) in tetrahydrofuran was stirred at 0° C. and then p-nitrophenyl chloroformate (3.88 g) was added, stirred at the same temperature for 5 hours. Ethyl acetate and 1N HCl were added to the reaction mixture, and the organic layer was separated, washed with water, dried over magnesium sulfate, and evaporated in vacuo. The yellow powder was washed with ethyl acetate to afford 4-nitro-phenyl N-(3-hydroxyphenyl)carbamate (554 mg).

reactant | 3-hydroxyaniline | 2.0 g | OC=1C=C(N)C=CC1 | C6H7NO
reactant | pyridine | 3.3 ml | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 3.88 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-nitro-phenyl N-(3-hydroxyphenyl)carbamate | 554 mg | OC=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H10N2O5
